US06353006B1
N-(tert-Butoxycarbonyl)-(L)-valine was converted to (S)-3-(tert-butoxycarbonylamino)-1-diazo-4-methylpentan-2-one according to Method B6a, Step 1. The diazo compound was converted to methyl (R)-3-(tert-butoxycarbonylamino)-4-methylpentanoate according to Method B6a, Step 2. The ester was reduced according to Method B6a, Step 3 to give (R)-3-(tert- butoxycarbonylamino)-4-methylpentan-1-ol. The carbamate was deprotected and converted to (R)-3-amino-1-chloro-4-methylpentane according to Method B7e. The 3-chloropropylamine was treated with 2-methyl-4-nitrophenyl isothiocyanate according to Method C2a to give (4R)-2-(2-methyl-4-nitrophenylimino)-4-isopropyl-1,3-thiazine. The thiazine was alkylated with isobutyl bromide according to Method D2a to afford (4R)-2-(2-methyl-4-nitrophenylimino)-3-isobutyl-4-isopropyl-1,3-thiazine HCl salt.

reactant | N-(tert-Butoxycarbonyl)-(L)-valine | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | (S)-3-(tert-butoxycarbonylamino)-1-diazo-4-methylpentan-2-one | C(C)(C)(C)OC(=O)N[C@H](C(C=[N+]=[N-])=O)C(C)C | C11H19N3O3
reactant | methyl (R)-3-(tert-butoxycarbonylamino)-4-methylpentanoate | C(C)(C)(C)OC(=O)N[C@H](CC(=O)OC)C(C)C | C12H23NO4
product | (R)-3-(tert- butoxycarbonylamino)-4-methylpentan-1-ol | C(C)(C)(C)OC(=O)N[C@H](CCO)C(C)C | C11H23NO3
